Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
increase residuals per son
increased secretions
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with ___ disease, advanced dementia, esophageal
dysmotility w/ chronic aspirations s/p PEG for feeding, reactive
airway disease on chronic glucocorticoids, presenting with
increased PEG-tube residuals, found to have pneumonia and rib
fractures. 

Of note, the patient was recently admitted from ___ -
___ for cough, dyspnea, and lethargy. Patient was noted to
have productive cough during admission, but no dyspnea or
lethargy. She had a CXR that was not c/w PNA. It was thought 
that
her presentation may be c/w exacerbation of "reactive airway
disease," and the patient was continued on her home medications.
She did not receive ABx or steroids. Hospital stay was notable
for tension between medical staff and family. Patient's son was
noted to repeatedly ask/demand additional medical testing and
sometimes act aggressively towards nursing staff. 

Patient's son reports increased TF residuals (~300 cc at home).
He also note increased secretions as of late. Otherwise, he
states that his mother seems to be at her baseline. Denies 
recent
trauma. 

ED Vitals: Afebrile, HR 80-102, BP 95-150/73-113, >93% RA
(briefly on 4L NC)

ED exam:
Oriented to baseline, G-tube site intact and nonerythematous.
Nontender to palpation. Lung sounds are quiet and difficult to
appreciate. She does seem to have more noisy breathing.

Labs:
WBC 11.2, Hgb 11.3, plts 259
BUN 23, Cr 0.5]
UA unremarkable 
Flu A/B PCR negative 

Studies:
CT Chest w/o (___): 
1. Multiple areas of atelectasis in the right lower and left
lower lobes with a patchy opacity in the lingula, could 
represent
pneumonia or aspiration. Right lower lobe mucous plugging. 
2. Trace right pleural effusion 
3. Acute to subacute fracture in the posterolateral aspect of 
the
seventh 
 right rib. Multiple additional subacute/chronic rib fractures
bilaterally 

Given multiple rib fractures, trauma was consulted in the ED and
they did not recommend and surgical intervention. 

She was given (in addition to home meds):
- IV acetaminophen 1000 mg 
- IV ceftriaxone 1 gm 
- IV azithromycin 500 mg 
- IV NS @ 100 cc/hr 
- duonebs 

 
Past Medical History:
___ Disease  
HTN
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Hypothyroidism 
Recurrent Aspiration s/p PEG placement 
 
Social History:
___
Family History:
Reviewed and not pertinent to the current admission.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 1817)
    Temp: 97.8 (Tm 97.8), BP: 91/63, HR: 95, RR: 24, O2 sat: 
93%,
O2 delivery: Ra
GENERAL: Extremely kyphotic and Parkinonian. Fatigued. 
HEENT: Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Poor air movement. Clear to auscultation bilaterally.
BACK: Extreme kyphosis. Point tenderness on the right mid back. 
ABDOMEN:non distended, non-tender to deep palpation in all four
quadrants. PEG in epigastrium, C/D/I 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. No rash.
NEUROLOGIC: Patient not participating much, as she is tired.
Answers yes/no questions or 1 word sentences. Increased tone 
with
cogwheeling throuhgout. ___ Hz tremor R > L arm and jaw.
Bradykinetic. 

DISCHARGE EXAM
===============
24 HR Data (last updated ___ @ 657)
    Temp: 97.8 (Tm 98.7), BP: 171/72 (136-171/72-94), HR: 84
(84-108), RR: 18, O2 sat: 95% (85%-97), O2 delivery: 0.5 L NC
(0.5L-1L)  
GENERAL: Extremely kyphotic. 
CARDIAC: RRR, nml s1 s2, no mrg. 
LUNGS: clear to auscultation. Upper airway sounds. 
BACK: Extreme kyphosis. 
ABDOMEN: Soft, nd, nt. PEG in epigastrium, C/D/I 
EXTREMITIES: Warm, no ___. 
SKIN: Warm. No rash.
NEUROLOGIC: Answers yes/no questions. Bradykinesia alternating
with dyskinesia throughout day. Cogwheel rigidity. Jaw and b/l 
UE
tremors.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:37PM BLOOD WBC-11.2* RBC-3.71* Hgb-11.3 Hct-36.9 
MCV-100* MCH-30.5 MCHC-30.6* RDW-15.6* RDWSD-56.8* Plt ___
___ 09:37PM BLOOD Neuts-80.1* Lymphs-12.1* Monos-6.9 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-8.93* AbsLymp-1.35 
AbsMono-0.77 AbsEos-0.00* AbsBaso-0.01
___ 09:37PM BLOOD Glucose-120* UreaN-23* Creat-0.5 Na-139 
K-4.8 Cl-100 HCO3-26 AnGap-13

DISCHARGE LABS:
=============== 
___ 07:30AM BLOOD WBC-8.6 RBC-3.42* Hgb-10.5* Hct-34.7 
MCV-102* MCH-30.7 MCHC-30.3* RDW-15.3 RDWSD-57.2* Plt ___
___ 07:30AM BLOOD Glucose-108* UreaN-16 Creat-0.5 Na-142 
K-4.6 Cl-102 HCO3-31 AnGap-9*
___ 07:30AM BLOOD Calcium-9.3 Phos-2.6* Mg-2.5

MICROBIOLOGY:
=============
___ BCX: NGTD
___ 12:00 am URINE

   URINE CULTURE (Preliminary): 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

___ 9:35 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

REPORTS:
========
___ CT CHEST W/O CONTRAST: 
1. Multiple areas of atelectasis in the right lower and left 
lower lobes with  a patchy opacity in the lingula, could 
represent pneumonia or aspiration.  Right lower lobe mucous 
plugging. 
2. Trace right pleural effusion 
3. Acute to subacute fracture in the posterolateral aspect of 
the seventh 
right rib.  Multiple additional subacute/chronic rib fractures 
bilaterally. 

___ CXR:
Within limitations of severe chest wall deformity, likely right 
upper lobe 
atelectasis/early infiltrates in the appropriate clinical 
setting.  The lower  lobes on both sides in the left upper lobe 
are clear. 

 
Brief Hospital Course:
___ with ___ disease, esophageal dysmotility w/ chronic 
aspirations s/p PEG for feeding, reactive airway disease on 
chronic glucocorticoids, presenting with increased PEG-tube 
residuals, found to have suspected pneumonia and rib fractures 
on CT chest. Patient received treatment for pneumonia and had 
persistent
episodes of hypoxemia due to aspiration from esophageal 
dysmotility, extreme kyphosis and atelectasis, dyskinesias from 
___ disease and underlying lung disease from COPD and
bronchiectasis. The patient was planned for discharge with 
appropriate ___ services and home O2 services, but patient son 
appealed the discharge. The case was reviewed by medicare who 
agreed with the medical team. 

ACUTE ISSUES:
=============
#Community acquired pneumonia
Patient has chronic cough with multiple recent admissions for 
increased cough and lethargy (per son's report, but some 
discrepancy w/ clinician observation, per prior notes). Has been 
afebrile, but has a mild lekocytosis, soft BPs, and a lingular 
consolidation on CT. Therefore, treated for CAP. That being 
said, CT changes and low-grade leukocytosis may simply represent 
pneumonitis from chronic aspiration +/- atelectasis. Treated 
with IV ceftriaxone/azithromycin for a total 5 day course 
(___). Persistent O2 requirement discussed below. 

#COPD
#Bronchiectasis 
#Acute hypoxemic respiratory failure 
Patient has been on 10 mg prednisone for some time now. Son 
called her pulmonologist due to perceived increase in WOB and 
respiratory distress and he recommended increasing prednisone to 
40 mg daily (she received 2 doses of 40 mg). On exam, patient 
was mildly tachypneic but without wheezing. Did not start 
prednisone burst, as pt has had well-documented 
prednisone-related side effects, and her respiratory status 
appears stable. She was continued on her home fluticasone, 
ipratropium, levalbuterol, and fomoterol breathing treatments, 
and prednisone 10mg qd. She was given guaifenasin q6h prn. Her 
fluctuations in respiratory function and persistent O2 
requirement despite treatment for CAP and COPD is likely due to 
chronic aspiration from esophageal dysmotility, extreme kyphosis 
and atelectasis, dyskinesias from ___ disease and 
underlying lung disease from COPD and bronchiectasis. The 
patient was discharged with home oxygen. She will have follow up 
with her pulmonologist to determine taper for prednisone. 

#Acute, subacute, and chronic rib fractures
Likely related to osteoporosis (w/ progressive demineralization 
from chronic prednisone use) and chronic cough. Evaluated by 
trauma, who do not recommend any surgical intervention. 

#Esophageal dysmotility
#Tube feed residuals 
Patient had one episode of 300 cc TF residual without any sign 
of clinical obstruction. Informed son that residuals do not need 
be checked regularly. Tube feeds were transitioned to the AM 
hours for 17 hours/day given family concern for aspirations from 
tube feeds. 

CHRONIC ISSUES:
===============
___ Disease 
Continued home carbidopa-levodopa

DISCHARGE APPEAL
================
  Repeated discussions with ___ (Son-HCP) were held 
regarding the poor prognosis for ___.  She is prone to 
aspirations, recurrent hypoxia with repeated mucous plugging.  
Given her Parksinson's, esophageal dysmotility, kyphosis and 
deconditioning, little can be done to prevent these aspirations 
from recurring.  She already has a PEG tube in place.  Despite 
efforts to impart the fact that providing ongoing care may 
actually be counterproductive, he did not appear willing to 
listen and insisted that everything should be done.  
   He appealed the discharge to Medicare - and the decision was 
made in agreement with our assessment.  She was discharged home 
with added oxygen, suctioning equipment and followup.  

TRANSITIONAL ISSUES
===================

[] Pulmonology: will work on tapering prednisone.
[] Neurology: continue to optimize sinemet. After receiving 
sinemet, patient is having significant dyskinesias exacerbating 
oxygen desaturations. 
[] Patient has a suction machine to help clear her secretions. 
The patient will need to have a renewed script to resupply the 
machine versus obtain a new machine. 
[] Patient was discharged with home oxygen. Continue to reassess 
need for oxygen. 
[] Continue to discuss with family that checking tube feed 
residuals are not necessary and have not been proven to show any 
benefit. 
[] Continue to reinforce the patient's progressive decline from 
underlying chronic medical diseases. 

#CODE: Full (per previous hospitalizations) 
#CONTACT: 
- Name of health care ___
- Relationship:Son
- Phone ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO QID:PRN pain 
2. Atorvastatin 20 mg PO QPM 
3. Carbidopa-Levodopa CR (___) 1 TAB PO ASDIR 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. formoterol fumarate 20 mcg/2 mL inhalation BID 
6. Hyoscyamine 0.125 mg SL TID:PRN oral secretions 
7. Ibuprofen 200 mg PO QID:PRN Pain - Moderate 
8. Ipratropium Bromide Neb 1 NEB IH Q6H 
9. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
10. Levalbuterol Neb 0.63 mg NEB Q6H:PRN dyspnea 
11. Levothyroxine Sodium 25 mcg PO DAILY 
12. Lidocaine 5% Patch 1 PTCH TD QPM 
13. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
14. PredniSONE 10 mg PO DAILY 
15. carbidopa 25 mg oral BID 
16. melatonin 3 mg oral QHS:PRN 
17. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth daily Disp #*90 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H  
3.  Carbidopa-Levodopa (___) 2 TAB PO Q0700  
4.  Carbidopa-Levodopa (___) 1.5 TAB PO Q 1000  
5.  Carbidopa-Levodopa (___) 1.5 TAB PO Q1300  
6.  Carbidopa-Levodopa (___) 2 TAB PO Q1600  
7.  Carbidopa-Levodopa (___) 1 TAB PO Q1900  
8.  Carbidopa-Levodopa (___) 1 TAB PO AT MIDNIGHT  
9.  Atorvastatin 20 mg PO QPM  
10.  carbidopa 25 mg oral BID  
11.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
12.  formoterol fumarate 20 mcg/2 mL inhalation BID  
13.  Hyoscyamine 0.125 mg SL TID:PRN oral secretions  
14.  Ibuprofen 200 mg PO QID:PRN Pain - Moderate  
15.  Ipratropium Bromide Neb 1 NEB IH Q6H  
16.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
17.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN dyspnea  
18.  Levothyroxine Sodium 25 mcg PO DAILY  
19.  Lidocaine 5% Patch 1 PTCH TD QPM  
20.  melatonin 3 mg oral QHS:PRN  
21.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
22.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
23.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Community acquired pneumonia

Secondary Diagnoses:
====================
Parkinsons Disease
Chronic obstructive pulmonary disease 
Bronchiectasis 
Acute/subacute rib fractures
Esophageal dysmotility
Malnutrition

 
Discharge Condition:
Mental Status: Confused - always. (dementia and Parkinsons) 
Level of Consciousness: Lethargic but arousable. 
Activity Status: Bedbound.

 
Discharge Instructions:
====================== 
DISCHARGE INSTRUCTIONS 
====================== 
Dear Ms. ___, 

It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You came to the hospital because your son was concerned about 
increased residuals from your tube feeds.

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- We gave you IV antibiotics for potential pneumonia (lung 
infection). 
- We monitored your tube feeds residuals which were normal.
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Please follow up with your pulmonologist, neurologist and 
primary care doctor. 
- Continue to take all your medicines and keep your 
appointments. 

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___